US05110993
In a 2 L, 3-necked round-bottomed flask equipped with a Vigreux column and a vacuum distillation setup was charged 9,9-DPHPF (75.0 g, 0.20 mol), 2,6-diphenylphenol (DPP; 295 g, 1.20 mol) and 1,2,4-trichlorobenzene (1 L). Methanesulfonic acid (250 mL) was then added and the resulting red suspension was stirred at room temperature. A vacuum was applied and the mixture was slowly heated up to 80° C. At this stage the trichlorobenzene started to reflux and phenol began to distill off. The vacuum distillation was continued for 48 hours and TLC then indicated that the reaction had reached equilibrium. The reaction mixture was cooled to room temperature and it separated into two phases. The top layer was diluted with chloroform (200 mL), neutralized with concentrated sodium carbonate solution and poured slowly into 6 L of petroleum ether. The resulting solids were collected on a filter funnel and the solids were then stirred with cyclohexane (500 mL) in a beaker for 30 min. After filtration, the washed solids weighted 125 g (95%) and contained the desired bisphenol in about 90% yield by HPLC. The remainder was mainly the monotransalkylated phenol 9-(hydroxyphenyl), 9-(3,5diphenyl-4-hydroxyphenyl)fluorene which was isolated in purified form in small quantities by flash chromatography (20% ethyl acetate in hexanes) as white crystals; mp 144°-145° C.; 1H NMR 4.79 (br s, 1 H, OH), 5.34 (s, 1 H, OH), 6.70 (d, 2 H, C2,6 -H on phenol), 7.13 (s, 2 H, C3,5 -H on DPP), 7.15 (d, 2 H, C3,5 -H), 7.25-7.50 (m, 16 H, Ar-H), 7.75 (d, 2 H, C4,5 -H on fluorene); MS (m/e, relative intensity %) 502 (M+., 10).

reactant | 2,6-diphenylphenol | 1.20 mol, 295 g | C1(=CC=CC=C1)C1=C(C(=CC=C1)C1=CC=CC=C1)O | C18H14O
reactant | 1,2,4-trichlorobenzene | 1 L | ClC1=C(C=C(C=C1)Cl)Cl | C6H3Cl3
reactant | trichlorobenzene | ClC=1C(=C(C=CC1)Cl)Cl | C6H3Cl3
reactant | phenol | C1(=CC=CC=C1)O | C6H6O
solvent | Methanesulfonic acid | 250 mL | CS(=O)(=O)O | CH4O3S
product | 9-(3,5diphenyl-4-hydroxyphenyl)fluorene | about 90% yield | C1(=CC=CC=C1)C=1C=C(C=C(C1O)C1=CC=CC=C1)C1C2=CC=CC=C2C=2C=CC=CC12 | C31H22O
